US09056874B2
2-(5-Methoxy-7-methyl-1H-indole-4-carbonyl)-1H-benzo[d]imidazole-5-carbonitrile
A mixture of tert-butyl 4-(5-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-2-carbonyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate and tert-butyl 4-(6-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-2-carbonyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate (62 mg, 0.11 mmol) was dissolved in THF (1.1 mL) and then TBAF (1.1 mL, 1.1 mmol) was added and the reaction was heated at 65° C. for 17 hours. The mixture was then cooled to room temperature and treated with 10 mL of a saturated aq. solution of ammonium chloride and then diluted with EtOAc. The organic layer was separated and washed with water (3×100 mL). The organic extract was dried over magnesium sulfate and concentrated. The resulting residue was dissolved in MeOH (4 mL), cesium carbonate (48.9 mg, 0.15 mmol) was added and the reaction was heated at 60° C. for 1 h. The reaction was cooled to room temperature, a saturated aq. solution of ammonium chloride was added, followed by EtOAc. The organic layer was separated, washed with water and the organic extracts combined, dried over magnesium sulfate, filtered and concentrated. The resulting residue was purified by flash column chromatography (0-40% EtOAc in heptanes) to provide the title compound. 1H NMR (400 MHz, DMSO-d6) δ ppm 13.73 (br. s., 1H) 11.33 (br. s., 1H) 8.29 (br. s.) 8.07 (br. s.) 7.60-7.90 (m, 2H) 7.45 (t, J=2.78 Hz, 1H) 6.89 (s, 1H) 6.42 (br. s., 1H) 3.56 (s, 3H) 2.54-2.63 (m, 3H). HRMS calcd. for C19H14N4O2 (M+H)+ 331.119. found 331.1202.

reactant | tert-butyl 4-(5-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-2-carbonyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate | C(#N)C1=CC2=C(N(C(=N2)C(=O)C2=C3C=CN(C3=C(C=C2OC)C)C(=O)OC(C)(C)C)COCC[Si](C)(C)C)C=C1 | C30H36N4O5Si
reactant | tert-butyl 4-(6-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-2-carbonyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate | 0.11 mmol, 62 mg | C(#N)C=1C=CC2=C(N(C(=N2)C(=O)C2=C3C=CN(C3=C(C=C2OC)C)C(=O)OC(C)(C)C)COCC[Si](C)(C)C)C1 | C30H36N4O5Si
reactant | TBAF | 1.1 mmol, 1.1 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | cesium carbonate | 0.15 mmol, 48.9 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | THF | 1.1 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(5-Methoxy-7-methyl-1H-indole-4-carbonyl)-1H-benzo[d]imidazole-5-carbonitrile | COC1=C(C=2C=CNC2C(=C1)C)C(=O)C1=NC2=C(N1)C=CC(=C2)C#N | C19H14N4O2
